### ISSUE TITLE
`ac_refl` fails in subgoal

### ISSUE THREAD

**Issue by Vtec234** [leanprover/lean4#1202]
### Description

```lean
constant f : Bool → Bool → Bool
axiom f_comm (a b : Bool) : f a b = f b a
axiom f_assoc (a b c : Bool) : f (f a b) c = f a (f b c)
instance : Lean.IsCommutative f := ⟨f_comm⟩
instance : Lean.IsAssociative f := ⟨f_assoc⟩

example (a b c : Bool) : f (f a b) c = f (f a c) b :=
  by ac_refl -- good

example (a b c : Bool) : (f (f a b) c = f (f a c) b) ∧ true :=
  And.intro (by ac_refl) rfl -- good

example (a b c : Bool) : (f (f a b) c = f (f a c) b) ∧ true := by
  apply And.intro
  . ac_refl
    /-
    tactic 'refl' failed, refl failed
    case left
    a b c : Bool
    ⊢ f (f a b) c = f (f a c) b
    -/
  . rfl
```

### Steps to Reproduce

**Expected behavior:** `ac_refl` succeeds in closing the first subgoal.

**Actual behavior:** It fails.

**Reproduces how often:** 100%

### Versions

4.0.0-nightly-2022-05-31
